US06420375B1
Preparation of 5-chlorobenzo[b]thiophene-2-carboxaldehyde
To a solution of 5-chlorobenzo[b]thiophene (6.14 g) in THF (120 ml) was added n-BuLi (1.6 M solution in hexane, 27.3 ml) at −78° C., and the mixture was stirred for 2 hours. To this mixture was added DMF (8.5 ml), and the mixture was stirred for 1 hour at −78° C. to −30° C. The reaction was quenched by the addition of water and allowed to warm to room temperature. The organic layer was separated, diluted with ethyl acetate, washed with 10% citric acid solution, brine, dried over MgSO4, and concentrated. The residue was titurated with diisopropylether to give the titled compound as colorless crystals (5.92 g).

reactant | 5-chlorobenzo[b]thiophene | 6.14 g | ClC1=CC2=C(SC=C2)C=C1 | C8H5ClS
reactant | n-BuLi | 1.6 M, 27.3 ml | [Li]CCCC
reactant | DMF | 8.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 5-chlorobenzo[b]thiophene-2-carboxaldehyde | 5.92 g | ClC1=CC2=C(SC(=C2)C=O)C=C1 | C9H5ClOS
